US05221676
7-[3-[2-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-8-(trifluoromethyl)-3-quinolinecarboxylic acid
Starting from 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-trifluoromethyl-3-quinolinecarboxylic acid (1.00 g, 3.0 mmol) and 2-(3-pyrrolidinyl)-benzenemethanamine, a procedure analogous to that given in Example 1 provided the title compound.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-trifluoromethyl-3-quinolinecarboxylic acid | 3.0 mmol, 1.00 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C(F)(F)F)F)F)=O)C(=O)O | C14H8F5NO3
reactant | 2-(3-pyrrolidinyl)-benzenemethanamine | N1CC(CC1)C1=C(C=CC=C1)CN | C11H16N2
product | 7-[3-[2-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-8-(trifluoromethyl)-3-quinolinecarboxylic acid | NCC1=C(C=CC=C1)C1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1C(F)(F)F)C1CC1)C(=O)O)=O)F | C25H23F4N3O3
